US05068390
Preparation of 2-Bromo-4,4,4- Trifluorocrotononitrile (E)- and (Z)-
Triethylamine (3.7 g, 0.037 mol) is added dropwise to a solution of 2,3-dibromo-4,4,4-trifluorobutyronitrile (5.32 g, 0.023 mol) and tetrahydrofuran (100 mL). A voluminous white precipitate forms during the addition. Stirring is continued for 1 hour, then the solid is filtered off and washed with tetrahydrofuran. The tetrahydrofuran is distilled off to give a dark brown oil. Bulb to bulb distillation (15 mm, 24° C.) of the oil yields the title product as a clear colorless liquid (3.1 g, 82%). NMR spectral analyses identifies a 6:1 mixture of E:Z.

reactant | Triethylamine | 0.037 mol, 3.7 g | C(C)N(CC)CC | C6H15N
reactant | 2,3-dibromo-4,4,4-trifluorobutyronitrile | 0.023 mol, 5.32 g | BrC(C#N)C(C(F)(F)F)Br | C4H2Br2F3N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-Bromo-4,4,4- Trifluorocrotononitrile | 3.1 g, 82% | Br/C(/C#N)=C\C(F)(F)F | C4HBrF3N
